US09290496B2
Preparation Step 6A: N-((3R,4R)-4-fluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide
To a Parr reactor was added N-((3R,4R)-1-benzyl-4-fluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide (86.5 g, 263 mmol, 1.0 eq), palladium hydroxide (20% on carbon, 2.59 g, 3.69 mmol, 3 wt/wt %) and MeOH (430 mL). The reactor was purged three times with nitrogen (50 psi) and then purged three times with hydrogen (20 psi). The reactor was heated at 50° C. and then pressurized to 50 psi while stirring at 1200 rpm. The material was hydrogenated for 7 hr and then cooled to 20° C. and purged with nitrogen. The mixture was filtered to remove the catalyst and the cake was washed with MeOH (173 mL). The combined filtrate and wash were concentrated to about 200 mL followed by addition of MTBE (200 mL) and then concentrated to a low stir volume. Additional MTBE (200 mL) was added and the resulting slurry granulated at 20° C. for 16 hr. The desired product was isolated by filtration, washed with MTBE (300 mL) and then dried in an oven at 40° C. for 12 hr. The title compound was isolated in 90% yield (53.3 g, 224 mmol) as a white crystalline solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.15 (br. d., J=6.8 Hz, 1 H) 4.96-4.78 (m, 1 H) 4.14-4.01 (m, 1 H) 3.32 (dd, J=8.0, 7.3 Hz, 2 H) 3.13 (dd, J=11.8, 6.8 Hz, 1 H) 3.01-2.93 (m, 1 H) 2.98 (s, 3 H) 2.88 (d, J=3.0 Hz, 1 H) 2.60 (br. s., 1 H) 2.5 7-2.52 (m, 3 H). m/z (EI+) for C8H15FN2O3S 239.1 (M+H)+.

reactant | N-((3R,4R)-1-benzyl-4-fluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide | 263 mmol, 86.5 g, 1.0 eq | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)F)NC(CCS(=O)(=O)C)=O | C15H21FN2O3S
catalyst | palladium hydroxide | 3.69 mmol, 2.59 g | [OH-].[Pd+2].[OH-]
solvent | MeOH | 430 mL | CO | CH4O
product | N-((3R,4R)-4-fluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide | 90% yield | F[C@H]1[C@@H](CNC1)NC(CCS(=O)(=O)C)=O | C8H15FN2O3S
